US07241785B2
A mixture of ethyl (E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate (14.30 g), 5% palladium-carbon (28.00 g), ethanol (150 ml) and tetrahydrofuran (150 ml) was stirred under a hydrogen atmosphere at room temperature for 3 hrs. Palladium-carbon was filtered off and the filtrate was concentrated. The obtained crystals were collected by filtration to give ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate (9.01 g, yield 83%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 75–76° C.

reactant | ethyl (E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate | 14.30 g | C(C1=CC=CC=C1)N1N=C(C(=C1)/C=C/C(=O)OCC)OCC1=CC=CC=C1 | C22H22N2O3
reactant | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 28.00 g | [C].[Pd]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-(1-benzyl-3-hydroxy-1H-pyrazol-4-yl)propionate | 9.01 g, yield 83% | C(C1=CC=CC=C1)N1N=C(C(=C1)CCC(=O)OCC)O | C15H18N2O3
